US06489321B1
2-(2-Hydroxyethyl)-5-(4-(2-phenylbenzoylamino)benzyl)-1,5-benzothiazepine-4-one (Compound 23)
To a cold (ice-bath) solution of 2-(2-hydroxyethyl)-5-(4-aminobenzyl)-1,5-benzothiazepine-4-one as prepared in Example 21 (0.865 g, 2.6 mM) in dry THF was added N,O-bis(trimethylsilyl)acetamide (1.16 ml, 5.2 mM). After 1 hour, 2-phenylbenzoyl chloride (0.570 g, 2.6 mM), prepared from 2-biphenylcarboxylic acid as described in Example 3, was added and stirring was continued for an addition hour. Water (80 ml) was added and the mixture was extracted with ethyl acetate (2×80 ml). The organic extract was dried (MgSO4), filtered and evaporated in vacuo to give a crude product. Purification by flash column chromatography (EM silica gel 60; 30% EtOAc in CH2Cl2) yielded the desired product as a white solid (1.1 g, 83%) m.p.116-120° C. 1H NMR (300 MHz, DMSOd6) δ7.8 (d, J=7 Hz, 1H); 5.09(d, J=15 Hz, H); 4.89(d,J=15 Hz,1H); 3.79 (m, 3H); 2.69-2.24(m, 2H); 1.71 (m, 2H); m/z (MH+)509.

reactant | 2-(2-hydroxyethyl)-5-(4-aminobenzyl)-1,5-benzothiazepine-4-one | OCCC=1SC2=C(N(C(C1)=O)CC1=CC=C(C=C1)N)C=CC=C2 | C18H18N2O2S
reactant | N,O-bis(trimethylsilyl)acetamide | 5.2 mM, 1.16 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 2-phenylbenzoyl chloride | 2.6 mM, 0.570 g | C1(=CC=CC=C1)C1=C(C(=O)Cl)C=CC=C1 | C13H9ClO
reactant | 2-biphenylcarboxylic acid | C=1(C(=CC=CC1)C(=O)O)C1=CC=CC=C1 | C13H10O2
solvent | THF | C1CCOC1 | C4H8O
solvent | Water | 80 ml | O | H2O
product | 2-(2-Hydroxyethyl)-5-(4-(2-phenylbenzoylamino)benzyl)-1,5-benzothiazepine-4-one | 1.1 g, 83% | OCCC=1SC2=C(N(C(C1)=O)CC1=CC=C(C=C1)NC(C1=C(C=CC=C1)C1=CC=CC=C1)=O)C=CC=C2 | C31H26N2O3S
